US07683057B2
Preparation of 5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [4-(morpholine-4-carbonyl)-cyclohexyl]-amide
To the solution of 4-({5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-amino)-cyclohexanecarboxylic acid in 20 mL of DMF were added HATU (0.161 g, 0.424 mmol), DIEA (0.072 mL, 0.424 mmol) and morpholine (0.0737 g, 0.847 mmol). The reaction mixture was stirred at r.t. overnight. LC-MS was used to determine completion of the reaction. DMF was evaporated under reduced pressure and the residue was precipitated with 5% diethyl amine/methanol (5 mL). The precipitate was collected by filtration, washed with methanol and dried in vacuum to give title compound (69 mg, 32.9% yield) as an orange solid. 1H NMR (300 MHz, DMSO-d6): δ=13.66 (s, 1H), 10.87 (s, 1H), 7.71-7.77 (m, 2H), 7.53-7.55 (d, 1H), 6.81-6.92 (m, 2H), 3.95-3.96 (m, 1H), 3.29-3.54 (m, 8H), 2.64-2.67 (m, 1H), 2.39-2.41 (ds, 6H), 1.47-1.88 (m, 8H). LC/MS: 495.1 [M+H]+.

reactant | 4-({5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-amino)-cyclohexanecarboxylic acid | FC=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)NC1CCC(CC1)C(=O)O)C | C23H24FN3O4
reactant | HATU | 0.424 mmol, 0.161 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.424 mmol, 0.072 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | morpholine | 0.847 mmol, 0.0737 g | N1CCOCC1 | C4H9NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [4-(morpholine-4-carbonyl)-cyclohexyl]-amide | 69 mg, 32.9% yield | N1(CCOCC1)C(=O)C1CCC(CC1)NC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)F)=O)C | C27H31FN4O4
